US06054448
i) 2,4-Diethyl-9-hydroxythioxanthene
To a stirred solution of 2,4-diethyl-9H-thioxanthen-9-one (20 g, 74.5 mmol) in methanol (400 ml) cooled in an ice bath was added sodium borohydride (8 g, 0.2 mole) portionwise. After 1 hour at room temperature, water (100 ml) was added to the reaction mixture and the precipitate collected and washed with water to give the title compound as a white solid (20 g).

reactant | 2,4-diethyl-9H-thioxanthen-9-one | 74.5 mmol, 20 g | C(C)C1=CC=2C(C3=CC=CC=C3SC2C(=C1)CC)=O | C17H16OS
reactant | sodium borohydride | 0.2 mole, 8 g | [BH4-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | methanol | 400 ml | CO | CH4O
product | 2,4-Diethyl-9-hydroxythioxanthene | 20 g | C(C)C1=CC=2C(C3=CC=CC=C3SC2C(=C1)CC)O | C17H18OS
